US04232016
A solution of 3.71 g. of 2-(α-bromo-α-fluoro-acetamido)-5-chlorobenzophenone, obtainable from 2-amino-5-chlorobenzophenone and α-bromo-α-fluoroacetyl bromide, in 100 ml. of ether and 60 ml. of 13% methanolic NH3 is allowed to stand for 18 hours at 20° and is evaporated. Working up in the customary manner, using water/methylene chloride, gives 3-fluoro-5-phenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one.

reactant | 2-(α-bromo-α-fluoro-acetamido)-5-chlorobenzophenone | BrC(C(=O)NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl)F | C15H10BrClFNO2
reactant | 2-amino-5-chlorobenzophenone | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H10ClNO
reactant | α-bromo-α-fluoroacetyl bromide | BrC(C(=O)Br)F | C2HBr2FO
reactant | NH3 | N | H3N
solvent | ether | CCOCC | C4H10O
product | 3-fluoro-5-phenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one | FC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)=O | C15H10ClFN2O
